simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vtap0 (tap0 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=1n period=2n
Vtap1 (tap1 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=2n period=4n
Vtap2 (tap2 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=8n
Vtap3 (tap3 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=8n period=16n
Vtap4 (tap4 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=16n period=32n
Vtap5 (tap5 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=32n period=64n

XDUT (tap0 tap1 tap2 tap3 tap4 tap5 vdd vss recon_value) v2_binary_dac_weighted_sum_6b_011

tran tran stop=120n maxstep=500p
save tap0 tap1 tap2 tap3 tap4 tap5 recon_value
